US05075030
12.2 g of hydrazine hydrate was added to a solution of 15 g of ethyl heptanoate in 20 ml of ethanol, followed by heat-refluxing for 4.5 hours. After the reaction, the reaction mixture was cooled to precipitate a crystal. The crystal was recovered by filtration and recrystallized from 20 ml of ethanol to obtain 7 g of heptanohydrazide.

reactant | hydrazine hydrate | 12.2 g | O.NN
reactant | ethyl heptanoate | 15 g | C(CCCCCC)(=O)OCC | C9H18O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | heptanohydrazide | 7 g | C(CCCCCC)(=O)NN | C7H16N2O
